US08664401B2
Step B) 2-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole
Potassium acetate (477 mg, 4.76 mmol) was added to a solution of 5-bromo-2-methylindole (500 mg, 2.4 mmol), bis(pinacolato)diboron (725 mg, 2.86 mmol), and [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) dcm complex (178 mg, 0.24 mmol) in 1,4-dioxane (25 mL) in a 20 mL vial. The vial was capped and heated to 80° C., reaction was heated at this temperature with stirring overnight.

reactant | Potassium acetate | 4.76 mmol, 477 mg | C(C)(=O)[O-].[K+]
reactant | 5-bromo-2-methylindole | 2.4 mmol, 500 mg | BrC=1C=C2C=C(NC2=CC1)C | C9H8BrN
reactant | bis(pinacolato)diboron | 2.86 mmol, 725 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | CC=1NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
